US05457118
3,5-Dibromobenzyl alcohol
Sodium borohydride (0.75 g) was added portionwise to a stirred suspension of 3,5-dibromobenzaldehyde (10.46 g) in methanol (50 ml) at 0° C. The mixture was stirred at 0° C. for 30 minutes, allowed to warm to room temperature and then its pH was adjusted to 2 using concentrated hydrochloric acid. Evaporation under vacuum provided a residue which was partitioned between ethyl acetate and water. The organic phase was washed with water, dried (MgSO4), then evaporated under vacuum to furnish the title compound as a solid (10.0 g), m.p. 103°-104° C. Found: C,31.98; H,2.23. C7H6Br2O requires C,31.61; H,2.77%.

reactant | Sodium borohydride | 0.75 g | [BH4-].[Na+]
reactant | 3,5-dibromobenzaldehyde | 10.46 g | BrC=1C=C(C=O)C=C(C1)Br | C7H4Br2O
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 3,5-Dibromobenzyl alcohol | 10.0 g | BrC=1C=C(CO)C=C(C1)Br | C7H6Br2O
